** sch_path: /home/uchida/work/design/TR1nm/sch/INV_X1.sch
.subckt INV_X1 A Y VDD GND
*.ipin A
*.opin Y
XM1 Y A GND GND NMOS w=3.4u l=1u 
XM2 Y A VDD VDD PMOS w=10.2u l=1u 
.ends
***.GLOBAL VDD
***.GLOBAL GND
